US05847155
1-[2-(Phenylsulfonyl)benzoyl]-2-pyrrolidinecarboxaldehyde
0.6 g (1.7 mmol) of 1-[2-(phenylsulfonyl)benzoyl]-2-pyrrolidinemethanol in 0.73 ml (10 mmol) of dimethylsulfoxide (DMSO) and 20 ml methylene chloride was cooled to -70° C. 1.0 ml (6.8 mmol) of trifluoroacetic anhydride (TFAA) as added such that the temperature remained below -50° C. The reaction mixture was then stirred for 2 hours at between -50° and -70° C. 1.9 ml (14 mmol) of triethylamine was added and the mixture allowed to warm to 0° C. The reaction was quenched with water and the mixture was dried and evaporated to give an oil which was chromatographed on silica gel with chloroform to yield 0.2 g (34%) of the title compound. 1H NMR (CDCl3) δ: 9.70(m,1H); 8.10-8.20(m,3H); 7.20-7.70(m,6H); 4.70(m,1H); 3.30-3.50 (m,2H); 1.70-2.30(m,4H). High Resolution Mass Spectrum: m/e=344.0951±0.6 ppm (calculated for C18H18NO4S).

reactant | 1-[2-(phenylsulfonyl)benzoyl]-2-pyrrolidinemethanol | 1.7 mmol, 0.6 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(C(=O)N2C(CCC2)CO)C=CC=C1 | C18H19NO4S
reactant | dimethylsulfoxide | 10 mmol, 0.73 ml | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 6.8 mmol, 1.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 14 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(Phenylsulfonyl)benzoyl]-2-pyrrolidinecarboxaldehyde | 0.2 g, 34% | C1(=CC=CC=C1)S(=O)(=O)C1=C(C(=O)N2C(CCC2)C=O)C=CC=C1 | C18H17NO4S
